US04675276
To 150 ml of formic acid was added 18.1 g of 4-methyl-1-phenylthiosemicarbazide obtained in the above process and the mixture was heat-refluxed for 20 hours. After cooling the reaction mixture and crystals thus formed were collected by filtration and recrystallized from methanol to provide mesoionic 4-methyl-1-phenyl1,2,4-triazolium-3-thiolate as light yellow crystals.

reactant | 4-methyl-1-phenylthiosemicarbazide | 18.1 g | CNC(NNC1=CC=CC=C1)=S | C8H11N3S
reactant | formic acid | 150 ml | C(=O)O | CH2O2
product | 4-methyl-1-phenyl1,2,4-triazolium-3-thiolate | CN1C(=N[N+](=C1)C1=CC=CC=C1)[S-] | C9H9N3S
